US04899249
N,N-Diethyl Trifluoromethane sulfonamide
Under a blanket of dry nitrogen, a mixture of 143.4 g (1.96 mole) of diethyl amine and 350 ml of chloroform in a one liter flask was cooled to 10° C. in an ice bath. To this stirred mixture 250.0 g (0.886 mole) of trifluoromethane sulfonic anhydride were added dropwise over a four hour period. During the addition the temperature was kept below 20° C. After the addition was complete the reaction mixture was heated at reflux for 30 minutes and then cooled to room temperature. The reaction mixture was then washed with two 500 ml portions of 10% hydrochloric acid and two 500 ml portions of distilled water. The organic phase was then dried over magnesium sulfate and the chloroform was removed under vacuum. The light yellow liquid was then percolated through a column of 50 g freshly kilned (400° C.) Porocel (Engelhart). Yield 103 g (66%).

reactant | diethyl amine | 1.96 mole, 143.4 g | C(C)NCC | C4H11N
reactant | trifluoromethane sulfonic anhydride | 0.886 mole, 250.0 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | chloroform | 350 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-Diethyl Trifluoromethane sulfonamide | C(C)N(S(=O)(=O)C(F)(F)F)CC | C5H10F3NO2S
